US06060459
Preparation of Palmitoylinosine
To a 50 mL flask was added inosine (1.0 g, 3.73 mmol) and N,N-dimethyl-4-aminopyridine (0.017 g, 0.074 mmol). N,N-dimethylformamide (16 mL) was added via cannula with stirring, the flask was purged with argon gas and pyridine (8 mL) was added via cannula. The slurry was allowed to cool 10 min. in an ice/NaCl bath and palmitoyl chloride (1.3 mL, 4.1 mmol) was added dropwise. The mixture was allowed to stir while it slowly warmed to 25° C. After 18 h, the mixture was quenched with a small chunk of ice and the solvents were evaporated leaving a white gum. Toluene (20 mL) was evaporated from the gum, which was then thoroughly triturated with 1:1 ethyl acetate-diethyl ether. The supernatant was isolated by suction filtration and the solvents evaporated leaving a syrup which turned into a soft, amorphous solid after 24 h in a vacuum desiccator.

reactant | inosine | 3.73 mmol, 1.0 g | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(O)=NC=NC12 | C10H12N4O5
reactant | palmitoyl chloride | 4.1 mmol, 1.3 mL | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
catalyst | N,N-dimethyl-4-aminopyridine | 0.074 mmol, 0.017 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | N,N-dimethylformamide | 16 mL | CN(C=O)C | C3H7NO
product | Palmitoylinosine | C(CCCCCCCCCCCCCCC)(=O)[C@@]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(O)=NC=NC12 | C26H42N4O6
